US05618814
8-(N-Benzyl-N-methyl-amino)-4-morpholino-2-(4-oxo-piperidin-1-yl)-pyrimido [5,4-d]pyrimidine
8-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-oxo-piperidin-1-yl) -4-morpholino-pyrimido[5,4-d]-pyrimidine Rf value: 0.09 (silica gel; ethyl acetate/cyclohexane =2:1)

reactant | 8-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-oxo-piperidin-1-yl) -4-morpholino-pyrimido[5,4-d]-pyrimidine | COC=1C=C2CCN(CC2=CC1OC)C1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCC(CC2)=O | C26H31N7O4
solvent | ethyl acetate cyclohexane | C(C)(=O)OCC.C1CCCCC1
product | 8-(N-Benzyl-N-methyl-amino)-4-morpholino-2-(4-oxo-piperidin-1-yl)-pyrimido [5,4-d]pyrimidine | C(C1=CC=CC=C1)N(C)C1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCC(CC2)=O | C23H27N7O2
